US08981085B2
N-(4-Chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)picolinamide (280 mg, 0.81 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (490 mg, 2.42 mmol) and DIEA (0.28 mL, 1.61 mmol) in NMP (2 mL) were stirred at 156° C. (bath) for 10 hours. Ethyl acetate (20 mL) was added, the organic layer was washed with water (10 mL), brine (10 mL) and dried over sodium sulfate. After removal of the solvent, the residue was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 40-80% CH3CN/water gradient; 30 CV) to give a solid. This solid was dissolved in DCM (3 mL), and TFA (0.5 mL) was added. The mixture was stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in DCM (1 mL), and 2N HCl in ether (3 mL) was added. The solid formed was collected by filtration to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)picolinamide hydrochloride (195 mg, 47% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.40 (m, 1H), 8.37 (s, 1H), 7.86 (s, 1H), 7.81 (m, 2H), 7.44 (m, 1H), 3.68 (m, 1H), 3.36 (m, 1H), 2.99 (m, 1H), 2.93 (m, 1H), 2.53 (m, 1H), 2.05 (m, 1H), 1.87 (m, 1H), 1.66 (m, 1H), 1.42 (m, 1H); LCMS (APCI+) m/z 405 (M+H)+.

reactant | N-(4-Chloro-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)picolinamide | 0.81 mmol, 280 mg | ClC1=C2C(=NC=C1C(F)(F)F)NC=C2NC(C2=NC=CC=C2)=O | C14H8ClF3N4O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.42 mmol, 490 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 1.61 mmol, 0.28 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)picolinamide hydrochloride | 195 mg, 47% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1C(F)(F)F)NC=C2NC(C2=NC=CC=C2)=O | InChI=1S/C19H19F3N6O.ClH/c20-19(21,22)12-8-25-17-15(16(12)28-7-3-4-11(23)10-28)14(9-26-17)27-18(29)13-5-1-2-6-24-13;/h1-2,5-6,8-9,11H,3-4,7,10,23H2,(H,25,26)(H,27,29);1H/t11-;/m1./s1
